US07238716B2
A mixture of methyl methylthiomethyl sulfoxide. (0.30 g) and finely triturated sodium hydroxide (0.015 g) was stirred at 70° C. for 30 min. To the reaction mixture was added 5-benzyloxy-2-ethoxybenzaldehyde (0.30 g), and the mixture was further stirred at 70° C. for 1.5 hrs. To the reaction mixture was added ethyl acetate, and the organic layer was washed successively with 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. A mixture of the obtained residue and 10% hydrogen chloride-methanol (15 mL) was heated under reflux for 15 hrs. To the reaction mixture was added ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give methyl 2-(2-ethoxy-5-hydroxyphenyl)acetate as a colorless oil (0.11 g, 44%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | methyl methylthiomethyl sulfoxide | CSCS(=O)C | C3H8OS2
reactant | sodium hydroxide | 0.015 g | [OH-].[Na+]
reactant | 5-benzyloxy-2-ethoxybenzaldehyde | 0.30 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)OCC | C16H16O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-ethoxy-5-hydroxyphenyl)acetate | 0.11 g, 44% | C(C)OC1=C(C=C(C=C1)O)CC(=O)OC | C11H14O4
